### PR TITLE
[Merged by Bors] - feat(Topology): add `Dense.induction`

### PR DESCRIPTION
**Pull request by erdOne**
This can be used as
```lean
induction x using hs.induction with
| mem x hx => sorry
| isClosed => sorry
```
when `hs : Dense s`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by alreadydone — APPROVED** [review]
maintainer merge

File: Mathlib/Topology/Basic.lean [hunk 1]
```diff
@@ -570,6 +570,14 @@ theorem dense_compl_singleton_iff_not_open :
     obtain rfl : U = {x} := eq_singleton_iff_nonempty_unique_mem.2 ⟨hne, hUx⟩
     exact ho hU
 
+/-- If a closed property holds for a dense subset, it holds for the whole space. -/
+@[elab_as_elim]
+lemma Dense.induction (hs : Dense s) {P : X → Prop}
+    (H : ∀ x ∈ s, P x) (isClosed : IsClosed { x | P x }) (x) : P x := by
```
Comment (eric-wieser) [inline Mathlib/Topology/Basic.lean:576]:
```suggestion
    (H : ∀ x ∈ s, P x) (isClosed : IsClosed { x | P x }) (x : X) : P x := by
```

File: Mathlib/Topology/Basic.lean [hunk 2]
```diff
@@ -570,6 +570,14 @@ theorem dense_compl_singleton_iff_not_open :
...
+  have : { x | P x } = Set.univ := Set.univ_subset_iff.mp
+    (hs.closure_eq.symm.subset.trans (isClosed.closure_subset_iff.mpr H))
+  exact this.symm.subset trivial
```
Comment (eric-wieser) [inline Mathlib/Topology/Basic.lean:579]:
```suggestion
    (H : ∀ x ∈ s, P x) (isClosed : IsClosed { x | P x }) (x) : P x :=
  (hs.closure_eq.symm.subset.trans (isClosed.closure_subset_iff.mpr H)) trivial
```

File: Mathlib/Topology/Basic.lean [hunk 3]
```diff
@@ -570,6 +570,14 @@ theorem dense_compl_singleton_iff_not_open :
     obtain rfl : U = {x} := eq_singleton_iff_nonempty_unique_mem.2 ⟨hne, hUx⟩
     exact ho hU
 
+/-- If a closed property holds for a dense subset, it holds for the whole space. -/
+@[elab_as_elim]
+lemma Dense.induction (hs : Dense s) {P : X → Prop}
```
Comment (eric-wieser) [inline Mathlib/Topology/Basic.lean:575]: As this can be used as
```
  induction x using hs.induction with
  | H x hx => sorry
  | isClosed => sorry
```
it maybe makes sense to rename `H` to `mem`

**Comment by eric-wieser** [comment]
bors d+

Thanks!

File: Mathlib/Topology/Basic.lean [hunk 4]
```diff
@@ -570,6 +570,12 @@ theorem dense_compl_singleton_iff_not_open :
...
+    (mem : ∀ x ∈ s, P x) (isClosed : IsClosed { x | P x }) (x : X) : P x :=
+  (hs.closure_eq.symm.subset.trans (isClosed.closure_subset_iff.mpr mem)) trivial
```
Comment (alreadydone) [inline Mathlib/Topology/Basic.lean:577]:
```suggestion
  hs.closure_eq.symm.subset.trans (isClosed.closure_subset_iff.mpr mem) trivial
```

**Review by eric-wieser — APPROVED** [review]
bors merge
